US08192918B2
10.0 g (66 mmol) of 2-aminonicotinic acid methyl amide, 21.4 g (100 mmol) diphenyl carbonate and 8.5 g (66 mmol) 4-dimethylaminopyridine were melted at 140 to 150° C. The reaction was allowed to continue for 20 minutes at that temperature. The mixture is allowed to cool down to 50 to 60° C. and 300 ml methanol was added while stirring. The mixture is allowed to cool down to room temperature. 3-methyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione crystallized from the medium, was isolated by filtration and washed with water, methanol and tert.-butyl methyl ether. 7.80 g (67%) of 3-methyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione was isolated (m.p. 272-4° C.).

reactant | 2-aminonicotinic acid methyl amide | 66 mmol, 10.0 g | CNC(C1=C(N=CC=C1)N)=O | C7H9N3O
reactant | diphenyl carbonate | 100 mmol, 21.4 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
catalyst | 4-dimethylaminopyridine | 66 mmol, 8.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 300 ml | CO | CH4O
product | 3-methyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 7.80 g, 67% | CN1C(NC2=C(C1=O)C=CC=N2)=O | C8H7N3O2
